US06492383B1
(1H-Indol-5-yl)-[6-(3-nitro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine
The title compound was prepared from 3-nitrobenzeneboronic acid and (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine by a procedure analogous to example 2. 1H NMR (400 MHz, DMSO) d 11.3 (s, 2H), 8.83 (s, 1H), 8.47 (s, 1H), 8.31 (m, 1H), 8.05 (m, 2H), 7.77 (m, 2H), 7.47 (m, 2H), 7.25 (m, 1H), 6.50 (s, 1H). M.P. 175-183° C.; LC-MS: 388 (MH+); HPLC RT: 4.80 minutes.

reactant | 3-nitrobenzeneboronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | (6-bromo-thieno[3,2-d]pyrimidin-4-yl)-(1H-indol-5-yl)-amine | BrC1=CC=2N=CN=C(C2S1)NC=1C=C2C=CNC2=CC1 | C14H9BrN4S
product | (1H-Indol-5-yl)-[6-(3-nitro-phenyl)-thieno[3,2-d]pyrimidin-4-yl]-amine | N1C=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=C(S2)C2=CC(=CC=C2)[N+](=O)[O-] | C20H13N5O2S
